US09023840B2
Step 2: 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide
2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.32 g, 0.52 mmol) was added to a mixture of {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (2.50 g, 5.18 mmol) (see WO 2009/114512), 4-bromo-3-fluoro-N-isopropylbenzamide (1.6 g, 6.2 mmol), and cesium carbonate (5.1 g, 16 mmol) in toluene (120 mL) under N2, followed by palladium acetate (0.12 g, 0.52 mmol). The reaction mixture was stirred at 120° C. for 5 hours. After the reaction mixture was cooled to room temperature, the organic layer was separated from the solid. The solid was dissolved in water (50 mL), extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in dichloromethylene (0-40%) to afford the desired product (2.20 g, 72.1%. LCMS (M+H)+: m/z=589.3.

reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.52 mmol, 0.32 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 5.18 mmol, 2.50 g | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | 4-bromo-3-fluoro-N-isopropylbenzamide | 6.2 mmol, 1.6 g | BrC1=C(C=C(C(=O)NC(C)C)C=C1)F | C10H11BrFNO
reactant | cesium carbonate | 16 mmol, 5.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.52 mmol, 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)NC(C)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H37FN8O2Si
